US04409214
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-allyloxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.6 g) and conc. hydrochloric acid (1.5 ml) in methanol (30 ml) was stirred at ambient temperature for 2 hours. After evaporation of the reaction mixture, thereto was added a saturated aqueous solution of sodium bicarbonate, followed by removing the insoluble substance by filtration. The filtrate was adjusted to pH 3 with 10% hydrochloric acid, and the precipitated solid was collected by filtration and washed with water to give 7-[2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.25 g).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-allyloxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.6 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC=C | C18H17N5O6S2
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.25 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC=C | C17H17N5O5S2
